US04116962
1-[2-acetoxymethyl-3-(acetylthio)propanoyl]-L-proline (1.5 g.) is dissolved in a mixture of water (12 ml.) and concentrated ammonia (12 ml.) under a blanket of argon. After one hour, the reaction mixture is concentrated to ca. dryness, diluted with water and the solution applied to a column of cation exchange resin (Dowex 50) in the hydrogen cycle. The water eluate is concentrated to small volume and freeze dried to yield 1-(2-hydroxymethyl-3-mercaptopropanoyl)-L-proline.

reactant | 1-[2-acetoxymethyl-3-(acetylthio)propanoyl]-L-proline | 1.5 g | C(C)(=O)OCC(C(=O)N1[C@H](C(=O)O)CCC1)CSC(C)=O | C13H19NO6S
solvent | water | 12 ml | O | H2O
solvent | ammonia | 12 ml | N | H3N
product | 1-(2-hydroxymethyl-3-mercaptopropanoyl)-L-proline | OCC(C(=O)N1[C@H](C(=O)O)CCC1)CS | C9H15NO4S
